US06143764
N-(3-Ethoxycarbonylphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea [164]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (53 mg) was dissolved in toluene (5 ml) with heat, 3-ethoxycarbonylphenyl isocyanate (284 mg) was added, and the admixture was refluxed with heat for 1 hour. The resulting residue was purified by column chromatography on silica gel eluting with chloroform/acetone (10/1) to obtain 18 mg of the title compound (yield: 20%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 53 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 3-ethoxycarbonylphenyl isocyanate | 284 mg | C(C)OC(=O)C=1C=C(C=CC1)N=C=O | C10H9NO3
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3-Ethoxycarbonylphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea | 18 mg, yield: 20% | C(C)OC(=O)C=1C=C(C=CC1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C27H25N3O6
